US08309580B2
3-[{4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methyl)amino]benzoyl}(methyl)amino]propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methyl)amino]benzoic acid (118 mg) as well as ethyl 3-(methylamino)propanoate (39 mg) to give the title compound (104 mg, 75%) as an amorphous compound.

reactant | 4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methyl)amino]benzoic acid | 118 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC)NC1=CC=C(C(=O)O)C=C1 | C27H28F3NO3
reactant | ethyl 3-(methylamino)propanoate | 39 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-[{4-[(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methyl)amino]benzoyl}(methyl)amino]propanoic acid | 104 mg, 75% | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC)NC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1 | C31H35F3N2O4
